US08686161B2
In one of the embodiments of the present invention, Perindopril free acid is dissolved in water to get clear solution at room temperature. (L)-Arginine is added to the solution and it is maintained for 15 to 30 minutes at room temperature. The solvent is removed by using techniques such as vacuum distillation, freeze drying and spray drying to obtain the polymorphic form γ of Perindopril (L)-Arginine.

reactant | (L)-Arginine | N[C@@H](CCCNC(N)=N)C(=O)O | C6H14N4O2
reactant | Perindopril | CCC[C@@H](C(=O)OCC)N[C@@H](C)C(=O)N1[C@H]2CCCC[C@H]2C[C@H]1C(=O)O | C19H32N2O5
solvent | water | O | H2O
product | Perindopril (L)-Arginine | CCC[C@@H](C(=O)OCC)N[C@@H](C)C(=O)N1[C@H]2CCCC[C@H]2C[C@H]1C(=O)O.N[C@@H](CCCNC(N)=N)C(=O)O | InChI=1S/C19H32N2O5.C6H14N4O2/c1-4-8-14(19(25)26-5-2)20-12(3)17(22)21-15-10-7-6-9-13(15)11-16(21)18(23)24;7-4(5(11)12)2-1-3-10-6(8)9/h12-16,20H,4-11H2,1-3H3,(H,23,24);4H,1-3,7H2,(H,11,12)(H4,8,9,10)/t12-,13-,14-,15-,16-;4-/m00/s1
